US06828320B2
(1-Benzyl-1H-indazol-5-yl)-[7-(5-(1,3-dioxolan-2-yl)furan-2-yl)quinazolin-4-yl]-amine hydrochloride (0.27 g) was stirred in THF:2N HCl (2:1, 15 ml) at 20° C. for 1 hour. Filtration gave 5-[4-(1-benzyl-1H-indazol-5-ylamino)-quinazolin-7-yl]-furan-2-carbaldehyde, used directly in the subsequent synthetic step.

reactant | (1-Benzyl-1H-indazol-5-yl)-[7-(5-(1,3-dioxolan-2-yl)furan-2-yl)quinazolin-4-yl]-amine hydrochloride | 0.27 g | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1OC(=CC1)C1OCCO1
reactant | HCl | 2N, 15 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 5-[4-(1-benzyl-1H-indazol-5-ylamino)-quinazolin-7-yl]-furan-2-carbaldehyde | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C1=CC=C(O1)C=O | C27H19N5O2
